US07365085B2
b) (2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-[3-(6-morpholin-4-yl-pyridin-2-yloxy)-propyl]-amine hydrochloride salt
Following the procedure of Example 6(d), except 6-morpholin-4-yl-pyridin-2-ol and N-(2,2-Diphenylethyl)-N-(3-hydroxy-propyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine were used instead of 5-(3-hydroxy-benzyl)-ethoxymethyl-1,2,3,4-tetrazole and 3-bromo-propanol in step 6(d), the title compound was synthesized as the free base. The tertiaryamine was then dissolved in diethyl ether and acidified with 1.0 M HC/diethyl ether to give 90 mg (32% yield) of the title compound as a white solid. MS (ESI) 610.2 (M+).

reactant | 6-morpholin-4-yl-pyridin-2-ol | N1(CCOCC1)C1=CC=CC(=N1)O | C9H12N2O2
reactant | N-(2,2-Diphenylethyl)-N-(3-hydroxy-propyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine | C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCO)C1=CC=CC=C1 | C25H25ClF3NO
reactant | 5-(3-hydroxy-benzyl)-ethoxymethyl-1,2,3,4-tetrazole | OC=1C=C(CC2=NN=NN2COCC)C=CC1 | C11H14N4O2
reactant | 3-bromo-propanol | BrCCCO | C3H7BrO
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-[3-(6-morpholin-4-yl-pyridin-2-yloxy)-propyl]-amine hydrochloride salt | 90 mg, 32% yield | Cl.ClC1=C(CN(CCCOC2=NC(=CC=C2)N2CCOCC2)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C34H35ClF3N3O2.ClH/c35-33-28(14-7-15-30(33)34(36,37)38)24-40(25-29(26-10-3-1-4-11-26)27-12-5-2-6-13-27)18-9-21-43-32-17-8-16-31(39-32)41-19-22-42-23-20-41;/h1-8,10-17,29H,9,18-25H2;1H
